US09102654B2
Methyl 3-chloro-1-(pyridin-3-yl)-1H-pyrazole-5-carboxylate (6d)
Methyl 3-chloro-1-(pyridine-3-yl)-4,5-dihydro-1H-pyrazole-5-carboxylate (2.63 g, 11.0 mmol) was stirred in tetrahydrofuran (50 mL) and water (50 mL) at 0° C. diammonium cerium (IV) nitrate (15.0 g, 27.4 mmol) was added in portions and the reaction was stirred at room temperature for 18 hours. thin layer chromatography analysis indicated that the starting material was consumed. The mixture was extracted with ethyl acetate (2×300 mL) and the organic layers were dried and concentrated. The residue was purified by flash column chromatography using 50-100% ethyl acetate/hexanes as eluent. The pure fractions were concentrated to provide the desired product as a yellow solid (1.50 g, 52%): mp 99-102° C.; 1H NMR (400 MHz, DMSO-d6) δ 9.00 (dd, J=2.5, 0.7 Hz, 1H), 8.83 (dd, J=5.2, 1.5 Hz, 1H), 8.35 (ddd, J=8.3, 2.5, 1.4 Hz, 1H), 7.83 (ddd, J=8.3, 5.2, 0.7 Hz, 1H), 7.35 (s, 1H), 3.78 (s, 3H); 13C NMR (101 MHz, CDCl3) δ 158.34, 149.90, 146.89, 141.39, 136.09, 134.77, 133.30, 123.14, 112.01, 52.53; ESIMS m/z 238 ([M+H]+).

reactant | Methyl 3-chloro-1-(pyridine-3-yl)-4,5-dihydro-1H-pyrazole-5-carboxylate | 11.0 mmol, 2.63 g | ClC1=NN(C(C1)C(=O)OC)C=1C=NC=CC1 | C10H10ClN3O2
reactant | water | 50 mL | O | H2O
reactant | diammonium cerium (IV) nitrate | 27.4 mmol, 15.0 g | [N+](=O)([O-])[O-].[Ce+4].[NH4+].[NH4+].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Methyl 3-chloro-1-(pyridin-3-yl)-1H-pyrazole-5-carboxylate | 1.50 g, 52% | ClC1=NN(C(=C1)C(=O)OC)C=1C=NC=CC1 | C10H8ClN3O2
